US06797823B1
N-(2-Chloro-4-{[6-methoxy-7-(4 pyridylmethoxy)-4-quinazolinyl]oxy}phenyl)-N′-propylurea
A starting compound (N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea, 80 mg), potassium carbonate (138 mg), and 4-chloromethylpyridine hydrochloride (41 mg), were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 80° C., for 3 hr. Water was added to the reaction mixture, followed by extraction with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC to give 65 mg (yield 66%) of the title compound.

reactant | N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCCC | C19H19ClN4O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethylpyridine hydrochloride | 41 mg | Cl.ClCC1=CC=NC=C1
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{[6-methoxy-7-(4 pyridylmethoxy)-4-quinazolinyl]oxy}phenyl)-N′-propylurea | 65 mg, yield 66% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=NC=C1)NC(=O)NCCC | C25H24ClN5O4
